US05576442
Borane methyl sulfide complex (2M in THF, 50 mL, 100 mmol) and 4-bromoacetyl-2-trifluoromethylthiazole (20.15 g, 73.5 mmol) were added separately and simultaneously over one our to (R)-tetrahydro-1,3,3-triphenyl-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole (1.2 g, 3.53 mmol) in tetrahydrofuran (50 mL) at ambient temperature. After the reduction was complete the reaction mixture was cooled to 0° C. and quenched with methanol (dropwise addition of 115 mL) while maintaining the temperature at less than or equal to 13° C. The quenched reaction mixture was stirred at 5° to 10° C. for ten minutes and then at ambient temperature for 45 minutes. The solvents were removed in vacuo and the residue was dissolved in methylene chloride (180 mL), washed with pH 4 aqueous phosphate buffer (180 mL), water (180 mL) and dried (MgSO4). The solvent was removed in vacuo to afford 4-(2-bromo-1-hydroxyethyl)-2-trifluoromethylthiazole as an amber oil (20.14 g, 99%, 90% ee). 1NMR (300 MHz, CDCl3 ): δ 7.61 (s, 1H), 5.13 (dd, J=4 Hz, J=7 Hz, 1H), 3.91 (dd, J=4 Hz, J=10 Hz, 1H), 3.70 (dd, J=7 Hz, J=10 Hz, 1H), 2.88 (bs, 1H).

reactant | Borane methyl sulfide | 100 mmol, 2M, 50 mL | CSC.B
reactant | 4-bromoacetyl-2-trifluoromethylthiazole | 73.5 mmol, 20.15 g | BrCC(=O)C=1N=C(SC1)C(F)(F)F | C6H3BrF3NOS
reactant | (R)-tetrahydro-1,3,3-triphenyl-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole | 3.53 mmol, 1.2 g | C1(=CC=CC=C1)B1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C23H22BNO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(2-bromo-1-hydroxyethyl)-2-trifluoromethylthiazole | BrCC(O)C=1N=C(SC1)C(F)(F)F | C6H5BrF3NOS
